US07517992B2
N-[(1S,1aR,7bR)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromen-1-yl]-N′-[5-(3-fluorophenoxy)-2-pyridinyl]urea
(1S,1aR,7bS)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromene-1-carboxylic acid (50 mg, 0.22 mmol, ˜95% ee) was mixed with toluene (1,5 ml), triethylamine (1.1 eq), 5-(3-fluorophenoxy)-2-aminopyridine (1.1 eq), DPPA (1.1 eq) and bubbled with argon for about 5 min. The reaction mixture was then heated at stirring at 110° C. for 3 h under in a closed vial. The reaction mixture was concentrated by mtary evaporation and purified by column chromatography on silica (30 g, ethylacetate/hexane 1:1). Desired product was obtained as beige-white powder (60 mg, yield 64%).

reactant | (1S,1aR,7bS)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromene-1-carboxylic acid | 0.22 mmol, 50 mg | FC1=CC=C(C=2[C@H]3[C@@H](COC12)[C@H]3C(=O)O)F | C11H8F2O3
reactant | triethylamine | 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | 5-(3-fluorophenoxy)-2-aminopyridine | 1.1 eq | FC=1C=C(OC=2C=CC(=NC2)N)C=CC1 | C11H9FN2O
reactant | DPPA | 1.1 eq | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 1,5 ml | C1(=CC=CC=C1)C | C7H8
product | N-[(1S,1aR,7bR)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromen-1-yl]-N′-[5-(3-fluorophenoxy)-2-pyridinyl]urea | FC1=CC=C(C=2[C@H]3[C@@H](COC12)[C@H]3NC(=O)NC3=NC=C(C=C3)OC3=CC(=CC=C3)F)F | C22H16F3N3O3
